US07812160B2
To a solution of methyl [4,6-dichloro-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (0.5 g, 1.40 mmol) in anhydrous DMF (5 mL) at room temperature under Ar atmosphere was added N,N-diiso-propylethylamine (0.0.54 mL, 3.09 mmol) and dimethylamine hydrochloride (0.126 g, 1.54 mmol). The resulting solution was stirred at 85° C. for 16 hours at which time the reaction mixture was concentrated to dryness and the residue chromatographed over silica gel eluting with 50% EtOAc in n-hexane to give methyl [4-chloro-6-(dimethylamino)-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (0.505 g, 99% yield) as a brown oil.

reactant | methyl [4,6-dichloro-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 1.40 mmol, 0.5 g | ClC1=NC(=NC(=C1CC(=O)OC)Cl)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H11Cl2N3O4
reactant | N,N-diiso-propylethylamine | 3.09 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylamine hydrochloride | 1.54 mmol, 0.126 g | Cl.CNC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | methyl [4-chloro-6-(dimethylamino)-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 0.505 g, 99% yield | ClC1=NC(=NC(=C1CC(=O)OC)N(C)C)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H17ClN4O4
